US08614206B2
A mixture of 4-nitropyrazole (1.13 g, 10 mmol) and K2CO3 (3.4 g, 25 mmol) in MeCN (50 mL) was stirred at room temperature for 15 min prior to addition of 3-(bromomethyl)-3-methyloxetane (1.8 g, 11 mmol). The reaction mixture was stirred at room temperature for 18 hr, filtered and the filter cake washed with MeCN. The filtrate was concentrated under reduced pressure and the residue purified by silica gel column chromatography (0-100% EtOAc/isohexane) gradient to afford 1-((3-methyloxetan-3-yl)methyl)-4-nitro-1H-pyrazole as a colorless solid (1.43 g, 73%). A portion of this solid (206 mg, 1.04 mmol) dissolved in MeOH (20 mL) was treated with ammonium formate (260 mg, 4.13 mmol) and 10% palladium on carbon (50 mg). The mixture was heated at 80° C. for 1.5 hr, cooled, filtered through Celite® and the filtrate concentrated under reduced pressure to afford 1-((3-methyloxetan-3-yl)methyl)-1H-pyrazol-4-amine as a pale pink gum (160 mg, 92%). 1H NMR (400 MHz, CDCl3) δ 7.15 (s, 1H), 6.97 (s, 1H), 4.66 (d, J=6.1 Hz, 2H), 4.37 (d, J=6.1 Hz, 2H), 4.19 (s, 2H), 2.91 (s, 2H), 1.23 (s, 3H).

reactant | 4-nitropyrazole | 10 mmol, 1.13 g | [N+](=O)([O-])C=1C=NNC1 | C3H3N3O2
reactant | K2CO3 | 25 mmol, 3.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-(bromomethyl)-3-methyloxetane | 11 mmol, 1.8 g | BrCC1(COC1)C | C5H9BrO
solvent | MeCN | 50 mL | CC#N | C2H3N
product | 1-((3-methyloxetan-3-yl)methyl)-4-nitro-1H-pyrazole | 1.43 g, 73% | CC1(COC1)CN1N=CC(=C1)[N+](=O)[O-] | C8H11N3O3
